US07776875B2
Preparation of Intermediate racemic (2′R,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-hydroxycarbonyl-1-methyl-ethoxy)-phenyl]-2′-(2,3-difluoro-6-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
A mixture of racemic (2′R,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-methoxycarbonyl-1-methyl-ethoxy)-phenyl]-2′-(2,3-difluoro-6-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (110 mg, 0.18 mmol), NaOH (15 mg, 0.375 mmol), H2O (2 mL) and methanol (5 mL) was heated at 80° C. for 2 h. After cooled to room temperature, the solution was acidified to “pH” 1-2 by addition of concentrated aqueous HCl solution. The aqueous phase was extracted with EtOAc. The organic layer was separated, washed with water, dried over anhydrous Na2SO4 and concentrated to give the crude product. The crude product was washed with ether twice to give the title compound as a white solid (10 mg).

reactant | racemic (2′R,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-methoxycarbonyl-1-methyl-ethoxy)-phenyl]-2′-(2,3-difluoro-6-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.18 mmol, 110 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(C)(C)C(=O)OC)=O)C1=C(C(=CC=C1C)F)F)=O | C30H26Cl2F2N2O5
reactant | NaOH | 0.375 mmol, 15 mg | [OH-].[Na+]
reactant | H2O | 2 mL | O | H2O
reactant | HCl | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
product | racemic (2′R,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-hydroxycarbonyl-1-methyl-ethoxy)-phenyl]-2′-(2,3-difluoro-6-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 10 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(C)(C)C(=O)O)=O)C1=C(C(=CC=C1C)F)F)=O | C29H24Cl2F2N2O5
